US09290451B2
a) 6-Cyclopropylmethoxy-5-(3-hydroxy-azetidin-1-yl)-pyridine-2-carboxylic acid
To a mixture of azetidin-3-ol (CAN 45347-82-8, 200 mg, 3 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (CAS 98327-87-8, 114 mg, 0.185 mmol), tris(dibenzylideneacetone)dipalladium (CAS 51364-51-3, 85 mg, 0.1 mmol) and cesium carbonate (CAS 534-17-8, 1.8 mg, 5.55 mmol) in toluene (8 mL) under nitrogen atmosphere, was added a solution of 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 9 d, 500 mg, 1.85 mmol). The reaction mixture was stirred overnight at 110° C. The reaction mixture was concentrated in vacuo and the residue dissolved in water and extracted with ethyl acetate (1×30 mL). The aqueous layer was adjusted to pH=2 by addition of 1 N hydrochloric acid, the resulting precipitate was collected by filtration, the solid was lyophilized. The crude product was purified by flash chromatography (silica gel, 50 g, 0% to 100% ethyl acetate in petroleum ether) to give the desired product (180 mg) as a yellow solid; MS (EI): m/e=265.2 [M+H]+.

reactant | azetidin-3-ol | 3 mmol, 200 mg | N1CC(C1)O | C3H7NO
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.185 mmol, 114 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 5.55 mmol, 1.8 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | 1.85 mmol, 500 mg | BrC=1C=CC(=NC1OCC1CC1)C(=O)O | C10H10BrNO3
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.1 mmol, 85 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-Cyclopropylmethoxy-5-(3-hydroxy-azetidin-1-yl)-pyridine-2-carboxylic acid | 180 mg | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CC(C1)O | C13H16N2O4
